US09290476B2
5-(4-(1H-1,2,4-triazol-1-yl)benzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
L-Proline (1.81 g, 15.6 mmol) was added to a stirring, heterogeneous mixture of 4-(1H-1,2,4-triazol-1-yl)benzaldehyde (13.5 g, 78.0 mmol, Intermediate 45, step a) and 2,2-dimethyl-1,3-dioxane-4,6-dione (11.2 g, 78.0 mmol) in ethanol (520 mL) at 23° C. After 1.5 hours, diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate (19.7 g, 78.0 mmol) was added in one portion. After 16 hours, the ethanol was removed by rotary evaporation at 35° C. to afford a yellow solid. Isopropanol (300 mL) was added and the heterogeneous mixture was stirred for 10 minutes at 23° C. The mixture was filtered and the filter cake was washed with isopropanol (150 mL). The solids were collected and dried under vacuum to provide the titled compound as a white solid.

reactant | L-Proline | 15.6 mmol, 1.81 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-(1H-1,2,4-triazol-1-yl)benzaldehyde | N1(N=CN=C1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 78.0 mmol, 11.2 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 78.0 mmol, 19.7 g | CC=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C | C13H19NO4
solvent | ethanol | 520 mL | C(C)O | C2H6O
solvent | Isopropanol | 300 mL | C(C)(C)O | C3H8O
product | 5-(4-(1H-1,2,4-triazol-1-yl)benzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | N1(N=CN=C1)C1=CC=C(CC2C(OC(OC2=O)(C)C)=O)C=C1 | C15H15N3O4
